US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 5-methoxy-2-(4-phenylpiperidino)benzonitrile (99 mg), and the resulting crude product was purified on TLC (developer, hexane: ethyl acetate=2:1) to provide 5-hydroxy-2-(4-phenylpiperidino)benzonitrile (42 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 5-methoxy-2-(4-phenylpiperidino)benzonitrile | 99 mg | COC=1C=CC(=C(C#N)C1)N1CCC(CC1)C1=CC=CC=C1 | C19H20N2O
product | 5-hydroxy-2-(4-phenylpiperidino)benzonitrile | 42 mg | OC=1C=CC(=C(C#N)C1)N1CCC(CC1)C1=CC=CC=C1 | C18H18N2O
